US06589970B2
Step 3: [6-({[5-(4-Chloro-phenyl)-2-methyl-furan-3-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid.
1 N NaOH (514 μL, 0.514 mmol) was added under nitrogen to a solution of [6-({[5-(4-chloro-phenyl)-2-methyl-furan-3-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid methyl ester (239 mg, 0.514 mmol), prepared in the previous step, in 30 mL of THF plus 15 mL of water. After the addition the reaction was stirred at room temperature for 20 h (overnight). 1 N HCl (1 mL) was added and the reaction then concentrated under reduced pressure to remove the THF. The solid present was removed by filtration and dried under reduced pressure to give the title compound (190 mg, 83%) as a tan solid, mp 177-181° C.

reactant | NaOH | 0.514 mmol, 1 N, 514 μL | [OH-].[Na+]
reactant | [6-({[5-(4-chloro-phenyl)-2-methyl-furan-3-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid methyl ester | 0.514 mmol, 239 mg | COC(COC1=CC2=CC=C(C=C2C=C1)CNC(=O)C1=C(OC(=C1)C1=CC=C(C=C1)Cl)C)=O | C26H22ClNO5
reactant | water | 15 mL | O | H2O
reactant | HCl | 1 N, 1 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | [6-({[5-(4-Chloro-phenyl)-2-methyl-furan-3-carbonyl]-amino}-methyl)-naphthalen-2-yloxy]-acetic acid | 190 mg, 83% | ClC1=CC=C(C=C1)C1=CC(=C(O1)C)C(=O)NCC=1C=C2C=CC(=CC2=CC1)OCC(=O)O | C25H20ClNO5
